US06156891
First, 0.25 g of 3,3,3-trifluoro-2-oxopropanal 1-(4-chlorophenylhydrazone), compound 3-11 was dissolved in 2 ml of pyridine. To this solution were added 0.24 g of methylmalonic acid and 0.09 g of piperidine, and the mixture was stirred at 80° C. for 4 hours. Then, 2.0 ml of acetic acid was added, and the mixture was stirred at 80° C. for 6.5 hours and further at 120° C. for 4 hours. After completion of the reaction, the reaction solution was poured into water, and this mixture was extracted with diethyl ether. The organic layer was washed with water and then with diluted hydrochloric acid, dried with anhydrous magnesium sulfate, and evaporated to remove the diethyl ether. The residue was subjected to silica gel column chromatography to give 0.15 g of 2-(4-chlorophenyl)-4-methyl-5-trifluoromethylpyridazin-3-one, compound 5-12, m.p., 80.8° C.

reactant | 3,3,3-trifluoro-2-oxopropanal 1-(4-chlorophenylhydrazone) | 0.25 g | ClC1=CC=C(C=C1)NN=CC(C(F)(F)F)=O | C9H6ClF3N2O
reactant | methylmalonic acid | 0.24 g | CC(C(=O)O)C(=O)O | C4H6O4
reactant | piperidine | 0.09 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(4-chlorophenyl)-4-methyl-5-trifluoromethylpyridazin-3-one | 0.15 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)C)C(F)(F)F | C12H8ClF3N2O
